US07342131B2
Cesium hydrogencarbonate (194 mg, 1 mmol) was added to a solution of (2S)-2-[(tert-butoxy)carbonylamino]-3-[3,4-bis(phenylmethoxy)phenyl]propionic acid (297 mg, 1 mmol) in 5 mL water and 5 mL acetonitrile. The resulting mixture was stirred at room temperature for 10 minutes, then frozen and lyophilized to yield (2S)-2-[(tert-butoxy)carbonylamino]-3-[3,4-bis(phenylmethoxy)phenyl]propionic acid cesium salt as a white solid, which was used in the next reaction without further purification.

reactant | Cesium hydrogencarbonate | 1 mmol, 194 mg | C(O)([O-])=O.[Cs+]
reactant | (2S)-2-[(tert-butoxy)carbonylamino]-3-[3,4-bis(phenylmethoxy)phenyl]propionic acid | 1 mmol, 297 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H31NO6
solvent | water | 5 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (2S)-2-[(tert-butoxy)carbonylamino]-3-[3,4-bis(phenylmethoxy)phenyl]propionic acid cesium salt | [Cs+].C(C)(C)(C)OC(=O)N[C@H](C(=O)[O-])CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C28H31NO6.Cs/c1-28(2,3)35-27(32)29-23(26(30)31)16-22-14-15-24(33-18-20-10-6-4-7-11-20)25(17-22)34-19-21-12-8-5-9-13-21;/h4-15,17,23H,16,18-19H2,1-3H3,(H,29,32)(H,30,31);/q;+1/p-1/t23-;/m0./s1
